US07683060B2
Step 4. Methyl 1-(6-hydrazinopyridin-3-yl)cyclopropanecarboxylate
To a solution of methyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate (1 g, 0.005 mol) in pyridine (2 mL) was added hydrazine (0.30 mL, 0.0094 mol). The solution was heated at 90° C. overnight. The reaction solution was cooled to RT, and then diluted with a small amount of ice-water. The precipitate was collected by filtration, and dried under vacuum to afford the desired compound (0.9 g, 90%). Analytical LCMS: (M+H)+=208.0.

reactant | methyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate | 0.005 mol, 1 g | ClC1=CC=C(C=N1)C1(CC1)C(=O)OC | C10H10ClNO2
reactant | hydrazine | 0.0094 mol, 0.30 mL | NN | H4N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 1-(6-hydrazinopyridin-3-yl)cyclopropanecarboxylate | 0.9 g, 90% | N(N)C1=CC=C(C=N1)C1(CC1)C(=O)OC | C10H13N3O2
